US06335360B1
1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-4-chloroindoline-2(R/S)-carboxylic acid methyl ester
To a solution of 4-chloroindoline-2(R/S)-carboxylic acid methyl ester (0.41 g, 1.94 mmol) and N-t-butoxycarbonyl-2(S)-aminobutyric acid (0.47 g, 2.33 mmol) dissolved in dried dichloromethane(10 ml) under nitrogen at 10° C., was added diisopropylcarbodiimide (0.36 ml, 2.33 mmol). The mixture was stirred at room temperature for 24 hours, then filtered. The filtrate was evaporated under vacuum to afford a brown solid which was purified by column chromatography on silica gel using 20:1 dichloromethane: diethyl ether as eluent. A white foam was obtained which was the mixture of two diastereomers.

reactant | 4-chloroindoline-2(R/S)-carboxylic acid methyl ester | 1.94 mmol, 0.41 g | COC(=O)C1NC2=CC=CC(=C2C1)Cl | C10H10ClNO2
reactant | N-t-butoxycarbonyl-2(S)-aminobutyric acid | 2.33 mmol, 0.47 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC | C9H17NO4
reactant | diisopropylcarbodiimide | 2.33 mmol, 0.36 ml | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-4-chloroindoline-2(R/S)-carboxylic acid methyl ester | COC(=O)C1N(C2=CC=CC(=C2C1)Cl)C([C@H](CC)NC(=O)OC(C)(C)C)=O | C19H25ClN2O5
